US07256300B2
Synthesis of (R)-5-Bromo-7-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]-2,3-dihydrobenzofuran
To a solution of (S)-4-(5-bromo-2,3-dihydrobenzofuran-7-yl)-1,1,1-trifluoro-4-methyl-2-p-tolylsulfanylmethylpentan-2-ol (11.1 g, 22.6 mmol) in 75 mL of anhydrous dichloromethane was added trimethyloxonium tetrafluoroborate (5.18 g, 35.0 mmol). The resulting suspension was stirred at room temperature for 4.5 hours. A solution of potassium carbonate (9.40 g, 68.0 mmol) in 75 mL of water was then added. After 13 hours, the reaction mixture was poured into 200 mL of saturated aqueous sodium bicarbonate solution and extracted with three 300 mL portions of dichloromethane. The combined organic phases were washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. Purification by column chromatography with silica gel (eluted with 0%-2% EtOAc-hexanes) afforded the title compound as a clear oil (7.84 g, 95%).

reactant | (S)-4-(5-bromo-2,3-dihydrobenzofuran-7-yl)-1,1,1-trifluoro-4-methyl-2-p-tolylsulfanylmethylpentan-2-ol | 22.6 mmol, 11.1 g | BrC=1C=C(C2=C(CCO2)C1)C(C[C@@](C(F)(F)F)(O)CSC1=CC=C(C=C1)C)(C)C | C22H24BrF3O2S
reactant | trimethyloxonium tetrafluoroborate | 35.0 mmol, 5.18 g | F[B-](F)(F)F.C[O+](C)C
reactant | potassium carbonate | 68.0 mmol, 9.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | water | 75 mL | O | H2O
product | (R)-5-Bromo-7-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]-2,3-dihydrobenzofuran | 7.84 g, 95% | BrC=1C=C(C2=C(CCO2)C1)C(C[C@]1(OC1)C(F)(F)F)(C)C | C15H16BrF3O2
